US04705786
A stirred solution of 1.0 g of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 0.95 g of 3-nitrobenzaldehyde and 0.52 g of 3-aminocrotononitrile in 10 ml of isopropyl alcohol was heated under reflux for 4 hours and then concentrated in vacuo. The residue was chromatographed on silica gel using chloroform-methanol (40:1) as eluent to give 0.90 g of 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carbonitrile, m.p. 204.5°-206.5° C.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 1.0 g | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | 3-nitrobenzaldehyde | 0.95 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3-aminocrotononitrile | 0.52 g | N\C(=C/C#N)\C | C4H6N2
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-nitrophenyl)pyridine-5-carbonitrile | 0.90 g | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)[N+](=O)[O-])C#N)C | C17H14ClN5O3
